US05712416
Oxygen was passed into a solution of 0.68 g (2 mmol) of iron 5,14-dihydrodibenzo[b,i][5,9,14,18]tetraaza[14]annulene and 0.5 g of concentrated sulfuric acid in 150 ml of 85% by weight aqueous acetic acid and, during this, a solution of 12.4 g (100 mmol) of 2,3-dimethylhydroquinone in 75 ml of 85% by weight acetic acid was added dropwise while stirring vigorously at 40° C. After oxygen uptake ceased, the mixture was subjected to a steam distillation. The distillate was extracted with tert-butyl methyl ether. The organic phase was shaken with aqueous sodium bicarbonate solution and then with water, separated from the aqueous phase, dried over magnesium sulfate, filtered and evaporated to dryness to yield 13.0 g (95%) of 2,3-dimethylbenzoquinone in the form of a yellow powder. Melting point 56°-57° C.

reactant | Oxygen | O=O | O2
reactant | sulfuric acid | 0.5 g | S(O)(O)(=O)=O | H2O4S
reactant | 2,3-dimethylhydroquinone | 100 mmol, 12.4 g | CC1=C(O)C=CC(=C1C)O | C8H10O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2,3-dimethylbenzoquinone | 13.0 g, 95% | CC=1C(C=CC(C1C)=O)=O | C8H8O2
